US06066638
Step A: Preparation of 2.3-dihydro-6.8-diiodo-3[(tetrahydro-2-furanyl)methyl]-2-thioxo-4(1H)quinazolinone
A mixture of 2-amino-3,5-diiodobenzoic acid (1.09 g, 2.57 mmol), tetrahydrofurfuryl isothiocyanate (0.35 g, 2.43 mmol) and triethylamine (0.26 g, 2.57 mmol) in 3.5 mL of ethanol was heated to reflux for about 6 h, and then was allowed to cool to room temperature. The ensuing precipitate was filtered and washed with ethanol (1×20 mL), hexanes (1×mL), and then dried to deliver 0.86 g of the title compound of Step A. 1H NMR (400 MHz, Me2SO-d6): δ 1.64-1.75 (m,1H), 1.75-1.85 (m,1H), 1.86-2.0 (m,2H), 3.57-3.65 (m,1H), 3.70-3.81 (m,1H), 4.26-4.34 (m,1H), 4.36-4.44 (m,1H), 4.52-4.60 (m,1H), 8.19 (d,1H), 8.56 (d,1H), 10.1 (br s,1H).

reactant | 2-amino-3,5-diiodobenzoic acid | 2.57 mmol, 1.09 g | NC1=C(C(=O)O)C=C(C=C1I)I | C7H5I2NO2
reactant | tetrahydrofurfuryl isothiocyanate | 2.43 mmol, 0.35 g | C(C1CCCO1)N=C=S | C6H9NOS
reactant | triethylamine | 2.57 mmol, 0.26 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 2.3-dihydro-6.8-diiodo-3[(tetrahydro-2-furanyl)methyl]-2-thioxo-4(1H)quinazolinone | IC=1C=C2C(N(C(NC2=C(C1)I)=S)CC1OCCC1)=O | C13H12I2N2O2S
